US08557983B2
6-amino-5-nitropyridine-3-sulfonic acid
6-Aminopyridine-3-sulfonic acid (20 g) in concentrated H2SO4 (80 mL) was heated at 50° C. until it was completely dissolved. To this solution was added fuming HNO3 dropwise over 20 minutes. The rate of addition was kept slow so that the internal temperature did not exceed 55° C. After the addition was complete, the reaction mixture was heated at 50° C. for 1 hour. After it cooled to room temperature, it was poured into 150 g of ice. The mixture was stirred for another 1 hour. The whole flask was cooled to 0° C., and was kept at 0° C. for another 2 hours. The solid was collected by filtration. The solid was washed with cold 1:1 water/ethanol (20 mL), followed by diethyl ether (10 mL). The solid was dried in a vacuum oven overnight to give the title compound.

reactant | 6-Aminopyridine-3-sulfonic acid | 20 g | NC1=CC=C(C=N1)S(=O)(=O)O | C5H6N2O3S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 80 mL | OS(=O)(=O)O | H2O4S
product | 6-amino-5-nitropyridine-3-sulfonic acid | NC1=C(C=C(C=N1)S(=O)(=O)O)[N+](=O)[O-] | C5H5N3O5S
